US07807671B2
To compound 4-(5-bromopyrazin-2-yl)morpholine (0.25 g) taken in dry THF (5 ml) and cooled to −78° C., n-butyl lithium (0.4 ml, 1M solution in Hexane) was added stirred for 2 hrs at −78° C. To the above reaction mixture tri-n-butyl tin chloride (1.1 mmol) was added drop wise at −78° C. Reaction mixture was stirred at −78° C. for one hour, quenched with saturated ammonium chloride solution and extracted with ethyl acetate (3×15 ml). The organic layer was washed with water (20 ml) followed by brine, dried over anhydrous sodiumsulphate and concentrated using rotary evaporator. The resulting crude was purified by column chromatography to afford 4-(5-(tributylstannyl)pyrazin-2-yl)morpholine as pale yellow color liquid.

reactant | 4-(5-bromopyrazin-2-yl)morpholine | 0.25 g | BrC=1N=CC(=NC1)N1CCOCC1 | C8H10BrN3O
reactant | n-butyl lithium | 1M, 0.4 ml | C(CCC)[Li]
reactant | tri-n-butyl tin chloride | 1.1 mmol | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(5-(tributylstannyl)pyrazin-2-yl)morpholine | C(CCC)[Sn](C=1N=CC(=NC1)N1CCOCC1)(CCCC)CCCC | InChI=1S/C8H10N3O.3C4H9.Sn/c1-2-10-8(7-9-1)11-3-5-12-6-4-11;3*1-3-4-2;/h2,7H,3-6H2;3*1,3-4H2,2H3;
